* C:\Users\j3qq4hch\Documents\PIXEL\Simulations\LED Driver.asc
L1 N002 N003 0.1n
V1 N001 0 PULSE(0 5 0 5n 5n 10u 20u)
C1 N002 0 1.6p
L2 N001 N002 0.1n
C2 N005 0 4p
R1 N004 N003 50K
C3 N004 0 50pF
R2 N005 N004 6K
.tran 30u
.backanno
.end
